US06197973B1
2-Chloro-3-(2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorophenyl)acryloyl chloride
A solution of 27 g of 2-chloro-3-(2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorophenyl)acrylic acid (64 mmol) in 200 ml of toluene was treated with 3 drops of dimethylformamide and 33 g (0.26 mol) of oxalyl chloride. The mixture was subsequently stirred at 90° C. until the vigorous evolution of gas had ceased (after approximately 2.5 hours). The reaction mixture was then concentrated. Yield: 26 g of crude product which was further reacted without purification.

reactant | 2-chloro-3-(2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorophenyl)acrylic acid | 64 mmol, 27 g | ClC(C(=O)O)=CC1=C(C=C(C(=C1)C1=NN(C(=C1Cl)OC(F)F)C)F)Cl | C14H8Cl3F3N2O3
reactant | oxalyl chloride | 0.26 mol, 33 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | 2-Chloro-3-(2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorophenyl)acryloyl chloride | ClC(C(=O)Cl)=CC1=C(C=C(C(=C1)C1=NN(C(=C1Cl)OC(F)F)C)F)Cl | C14H7Cl4F3N2O2
